US06159978
4-Chloro-5-methoxy-benzene-1,2-diamine dihydrochloride
To a solution of EtOAc (25 mL) and 5-chloro-4-methoxy-2-nitro-phenylamine (1.6 g, 7.9 mmol) under argon is added 5% Pd/C (0.5 g). The reaction mixture is hydrogenated at 50 psi for 1 hour. The mixture is filtered under N2 through Celite into a solution of 1 N HCl/Et2O in EtOAc, and the pad is washed with additional EtOAc. The resulting precipitate is filtered off to provide a white solid.

reactant | 5-chloro-4-methoxy-2-nitro-phenylamine | 7.9 mmol, 1.6 g | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])OC | C7H7ClN2O3
catalyst | Pd/C | 0.5 g | [Pd] | Pd
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 4-Chloro-5-methoxy-benzene-1,2-diamine dihydrochloride | Cl.Cl.ClC=1C=C(C(=CC1OC)N)N | InChI=1S/C7H9ClN2O.2ClH/c1-11-7-3-6(10)5(9)2-4(7)8;;/h2-3H,9-10H2,1H3;2*1H
